US07723329B2
A solution of toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl ester (0.080 mg, 0.15 mmol) and cyclopentylamine (0.45-0.75 mmol) in THF (10 mL) was stirred at 90° C. for 2 hours in a sealed tube. After cooling to ambient temperature, the reaction mixture was solvent evaporated. It was partitioned in ethyl acetate and washed twice with aqueous sodium bicarbonate. The organic phase was dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography using 0.75% ammonium hydroxide/7.5% methanol in chloroform to give cyclopentyl-{3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl}-amine as a beige foam (70.6 mg, 100%). This compound was dissolved in methanol, and ethereal hydrochloride was added. Concentrating and drying in vacuo for 12.5 hours at 83° C. gave the hydrochloride as a light brown foam (69.7 mg, 95.6%); Mass Spectrum (+EI, [M+H]+) m/z 450. 1HNMR (500 MHz, DMSO-d6): δ14.15-14.21 (br, 1H), 8.70-8.83 (m, 3H), 8.51-8.53 (m, 1H), 8.27 (d, 1H, J=8.30 Hz), 8.03-8.05 (m, 1H), 7.71-7.75 (m, 1H), 7.54-7.65 (m, 3H), 7.30 (d, 1H, J=2.20 Hz), 7.09 (dd, 1H, J=9.15 Hz and 2.31 Hz), 4.11 (t, 2H, J=6.10 Hz), 3.43-3.49 (m, 1H), 3.06 (br, s, 2H), 2.05-2.14 (m, 2H), 1.88-1.96 (m, 2H), 1.43-1.71 ppm (m, 6H). Elemental Analysis for C25H27N3O3S.1.00 mol HCl.0.75 mol H2O: Calcd: C, 60.11; H, 5.95; N, 8.41; Found: C, 59.71; H, 5.83; N, 8.25.

reactant | toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl ester | 0.15 mmol, 0.080 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCCOS(=O)(=O)C1=CC=C(C=C1)C | C27H24N2O6S2
reactant | cyclopentylamine | 0.45-0.75 mmol | C1(CCCC1)N | C5H11N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | cyclopentyl-{3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl}-amine | 70.6 mg, 100% | C1(CCCC1)NCCCOC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C25H27N3O3S
